US08802688B2
Step 4: 7-bromo-6-methoxyquinoline-3-carboxylic acid
To a solution of ethyl 7-bromo-6-methoxyquinoline-3-carboxylate (250 mg, 0.80 mmol) in tetrahydrofuran (5 mL) was added 1 N aqueous lithium hydroxide (1.6 mL, 1.6 mmol). The reaction was stirred at room temperature overnight. The reaction was concentrated and the residue was taken up in water and 1 N aqueous lithium hydroxide (0.4 mL). The solution was extracted twice with ethyl acetate. The aqueous layer was then acidified to pH=4 with 1 N aqueous hydrochloric acid. The resulting precipitate was filtered, washed with water, and dried under vacuum to give the title compound (165 mg, 73%) as an off-white solid. +ESI (M+H+1) 284.1; 1H NMR (400 MHz, CD3OD, δ): 9.19 (d, J=2.15 Hz, 1 H), 8.89 (d, J=1.76 Hz, 1 H), 8.30 (s, 1 H), 7.53 (s, 1 H), 4.04 (s, 3 H).

reactant | ethyl 7-bromo-6-methoxyquinoline-3-carboxylate | 0.80 mmol, 250 mg | BrC1=C(C=C2C=C(C=NC2=C1)C(=O)OCC)OC | C13H12BrNO3
reactant | lithium hydroxide | 1.6 mmol, 1 N, 1.6 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 7-bromo-6-methoxyquinoline-3-carboxylic acid | 165 mg, 73% | BrC1=C(C=C2C=C(C=NC2=C1)C(=O)O)OC | C11H8BrNO3
